US07737141B2
Synthesis of (E)-(3S,8aR)-3-(4-chlorophenyl)-6-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]hexahydroindolizin-5-one
Lithium hydroxide (355 mg) was added to a solution mixture of tetrahydrofuran (8 mL)-ethanol (30 mL) of 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde (875 mg) and [(3S,8aR)-3-(4-chlorophenyl)-5-oxooctahydroindolizin-6-yl]phosphonic acid diethyl ester (2.5 g). The resulting reaction solution was stirred under light-shielded conditions at room temperature for 5 hr and then poured into iced-water. The resulting mixture was extracted with ethyl acetate. The extract solution was washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (heptane-ethyl acetate system) to give 1.43 g of the title compound as a colorless solid. The physical property values of this compound were as follows:

reactant | Lithium hydroxide | 355 mg | [OH-].[Li+]
reactant | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
reactant | 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde | 875 mg | COC=1C=C(C=O)C=CC1N1C=NC(=C1)C | C12H12N2O2
reactant | [(3S,8aR)-3-(4-chlorophenyl)-5-oxooctahydroindolizin-6-yl]phosphonic acid diethyl ester | 2.5 g | C(C)OP(OCC)(=O)C1C(N2[C@@H](CC[C@@H]2CC1)C1=CC=C(C=C1)Cl)=O | C18H25ClNO4P
solvent | water | O | H2O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | (E)-(3S,8aR)-3-(4-chlorophenyl)-6-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]hexahydroindolizin-5-one | 1.43 g | ClC1=CC=C(C=C1)[C@@H]1CC[C@H]2CC\C(\C(N12)=O)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C26H26ClN3O2
